US08278343B2
Preparation 43: 3-[4-(5-Cyano-pyridin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 6-(4-hydroxy-phenyl)-nicotinonitrile (Preparation 18) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (112 mg, 64.6%)

reactant | 6-(4-hydroxy-phenyl)-nicotinonitrile | OC1=CC=C(C=C1)C1=NC=C(C#N)C=C1 | C12H8N2O
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[4-(5-Cyano-pyridin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC1=CC=C(C=C1)C1=NC=C(C=C1)C#N | C28H27N3O5
